US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methoxyphenyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 1. Reaction of 5-chlorosulfonyl-2-(4-methoxyphenyl)thiophene with 5-amino-4-bromo-3-methylisoxazole gave N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methoxyphenyl)thiophene-2-sulfonamide in 50% yield, m.p. 128°-130° C.

reactant | 5-chlorosulfonyl-2-(4-methoxyphenyl)thiophene | ClS(=O)(=O)C1=CC=C(S1)C1=CC=C(C=C1)OC | C11H9ClO3S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methoxyphenyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)OC)C | C15H13BrN2O4S2
